US04204998
A solution of 14.8 g (0.1 mol of 1-amino-5-methyl benztriazole in 200 ml of anhydrous benzene was placed under a nitrogen atmosphere and, over a period of 30 minutes, a solution of 18.9 g (0.11 mol) of β-bromopropionyl chloride in 25 ml of anhydrous benzene and 10.1 g (0.10 mol) of triethylamine were simultaneously added to the solution while stirring the latter. The addition was so made that the amount of acid chloride added was always greater than the amount of amine. The temperature of the mixture rose to above 40° C. Stirring was then continued for 1 hour without application of heat and was continued for a further hour with heating to 60° C. following by stirring for two further hours without application of heat. The organic phase was then poured off from a greasy deposit in the reaction vessel and was washed with water. The deposit was taken up in chloroform and was also washed with water. The organic phases obtained were dried over sodium sulphate, combined and completely concentrated by evaporation. 24 G of the intermediate product, 1-(β-bromopropionylamino)-5-methyl benztriazole were obtained as residue in the form of a frothy resin.

reactant | 1-amino-5-methyl benztriazole | 0.1 mol | NN1N=NC2=C1C=CC(=C2)C | C7H8N4
reactant | β-bromopropionyl chloride | 0.11 mol, 18.9 g | BrCCC(=O)Cl | C3H4BrClO
reactant | triethylamine | 0.10 mol, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-(β-bromopropionylamino)-5-methyl benztriazole | BrCCC(=O)NN1N=NC2=C1C=CC(=C2)C | C10H11BrN4O
